### PR TITLE
[Merged by Bors] - feat: unused tactic linter

### PR DESCRIPTION
**Pull request by adomani**
The `unusedTactic` linter emits a warning if a tactic does nothing.

Previous PRs (see below) removed all the "unused tactics" that the linter flagged.

Here is an overview of this PR:
* the linter is defined in `Mathlib/Tactic/Linter/UnusedTactic.lean`;
* the file `Mathlib/GroupTheory/Perm/Cycle/Concrete.lean` contains the "only" `set_option` to opt out of the linter, since it defines notation that uses `decide` that the notation itself does not use;
* 17 test files that have surgically opted out of the linter;
* noise to import the new file, place it low in the import hierarchy and update `noshake`.

PRs removing some unused tactics:
* #11333
* #11351
* #11365
* #11379

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/pointless.20tactic.20linter)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/Terminal.lean [hunk 1]
```diff
@@ -602,9 +602,9 @@ def limitOfDiagramInitial {X : J} (tX : IsInitial X) (F : J ⥤ C) :
     IsLimit (coneOfDiagramInitial tX F) where
   lift s := s.π.app X
   uniq s m w := by
-    conv_lhs => dsimp
+    show m = s.π.app X
```
Comment (alexjbest) [inline Mathlib/CategoryTheory/Limits/Shapes/Terminal.lean:605]: This is curious, does this mean the dsimp did do something?

File: Mathlib/Data/Finset/Lattice.lean [hunk 2]
```diff
@@ -1385,7 +1385,7 @@ theorem max_of_nonempty {s : Finset α} (h : s.Nonempty) : ∃ a : α, s.max = a
 theorem max_eq_bot {s : Finset α} : s.max = ⊥ ↔ s = ∅ :=
   ⟨fun h ↦ s.eq_empty_or_nonempty.elim id fun H ↦ by
       obtain ⟨a, ha⟩ := max_of_nonempty H
-      rw [h] at ha; cases ha; done, -- Porting note: error without `done`
```
Comment (alexjbest) [inline Mathlib/Data/Finset/Lattice.lean:1388]: What is going on here lol, and below

**Review by alexjbest — COMMENTED** [review]
Wow super cool!

File: Mathlib/CategoryTheory/Limits/Shapes/Terminal.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/CategoryTheory/Limits/Shapes/Terminal.lean:605]: Actually, I think that `dsimp` was doing something, but when I was looking at it I misdiagnosed: currently, the linter performs poorly inside `conv`.

File: Mathlib/Data/Finset/Lattice.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/Data/Finset/Lattice.lean:1388]: For this, I'll direct you [here](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/error.20puzzle)!

File: Mathlib/Data/Seq/WSeq.lean
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Data/Seq/WSeq.lean:1]: Yes, It probably could, although the cure is typically to simply remove the underlined code.

I'll try it, though and see how the formatting goes.

**Comment by grunweg** [comment]
Just FWIW, when I read the PR title "pointless linter", at first I thought (apart from the pun, which I like!) it was about missing focusing dots... If/when this is running in CI, being clearly about pointless *tactics* will really help. (You mostly already do this.)

**Comment by adomani** [comment]
> Just FWIW, when I read the PR title "pointless linter", at first I thought (apart from the pun, which I like!) it was about missing focusing dots... If/when this is running in CI, being clearly about pointless _tactics_ will really help. (You mostly already do this.)

You are right: maybe calling it a more sober "unused tactic linter" might be better.  I'll leave it as is while I clean up the "useless" tactics and will maybe have a poll later on.

**Comment by YaelDillies** [comment]
As said on the other PR, I'm not sure what the point of eradicating "purposely pointless" tactics like `skip` or `done` is

**Comment by adomani** [comment]
> As said on the other PR, I'm not sure what the point of eradicating "purposely pointless" tactics like `skip` or `done` is

I have not yet found a way to nolint `skip`s that appear in a `<;> [...]` block and for the moment I am leaving those as they are, unless there is something that looks like an improvement.  The remaining `skip`s seem completely superfluous, maybe introduced by `Mathport`, I am not sure.

With respect to `done`, I am happy to nolint it: I already have nolinted `;` for the same reason.  However, it seems to me that `done` is a good way to internally verify that a tactic is finished doing what it should do, but seems to almost never appear in "visible" code.

File: Mathlib/Data/Seq/WSeq.lean
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Data/Seq/WSeq.lean:1]: I tried a bit and I find it tricky: I do not know how to consistently remove the "unused" syntax.  I could make it work when you have a very basic sequence of tactics, but as soon as there are combinators or any non-trivial nesting, I fail to produce well-formed syntax robustly.

**Comment by adomani** [comment]
!bench

**Comment by adomani** [comment]
Oh this is bad *everywhere*!

File: Mathlib/Tactic/UnusedTactic.lean [hunk 3]
```diff
@@ -0,0 +1,195 @@
...
+import Lean.Linter.Util
+import Std.Tactic.Unreachable
+import Std.Data.List.Basic
+
+/-!
+#  The unused tactic linter
+
+The unused linter makes sure that every tactic call actually changes *something*.
+
+The inner workings of the linter as as follows.
```
Comment (YaelDillies) [inline Mathlib/Tactic/UnusedTactic.lean:16]:
```suggestion
The inner workings of the linter are as follows.
```

Comment (adomani) [reply Mathlib/Tactic/UnusedTactic.lean:16]: THanks!

**Comment by adomani** [comment]
[This is more encouraging](https://github.com/leanprover-community/mathlib4/pull/11394#issuecomment-1999496824), but I need to make sure that I got the logic right!

**Comment by adomani** [comment]
!bench

**Comment by adomani** [comment]
The benchmark that failed on this PR is reproduced [here](https://github.com/leanprover-community/mathlib4/pull/11399#issuecomment-1999918796).  You can see that there was not even the need to rebuild mathlib: CI recycled the ones for this PR.  The results are still bad, but not as much as it looked earlier!

**Comment by grunweg** [comment]
Looks like the linter needs to exclude the #adaptation_note tactic - and there may be few new finds.

File: Mathlib/Tactic/Linter/UnusedTactic.lean [hunk 4]
```diff
@@ -0,0 +1,213 @@
+/-
+Copyright (c) 2024 Damiano Testa. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Damiano Testa
+-/
+import Lean.Elab.Command
+import Lean.Linter.Util
+import Batteries.Data.List.Basic
+import Batteries.Tactic.Unreachable
```
Comment (adomani) [inline Mathlib/Tactic/Linter/UnusedTactic.lean:9]:
```suggestion
```
As suggested by the linter

File: Mathlib/AlgebraicGeometry/Restrict.lean [hunk 5]
```diff
@@ -347,7 +347,6 @@ theorem morphismRestrict_app {X Y : Scheme.{u}} (f : X ⟶ Y) (U : Opens Y) (V :
     Hom.app_eq_appLE, comp_appLE, ofRestrict_appLE, Hom.appLE_map, eqToHom_op,
     restrict_presheaf_map, eqToHom_unop] at this
   have e : ιOpens U ⁻¹ᵁ (ιOpens U ''ᵁ V) = V := by
-    congr 1
     exact Opens.ext (Set.preimage_image_eq _ Subtype.coe_injective)
```
Comment (YaelDillies) [inline Mathlib/AlgebraicGeometry/Restrict.lean:350]: Can you also remove the `by exact`?

Comment (adomani) [reply Mathlib/AlgebraicGeometry/Restrict.lean]: It looks like it, thanks!

Maybe, there should be an "unnecessary `by exact ...` linter".

Comment (YaelDillies) [reply Mathlib/AlgebraicGeometry/Restrict.lean]: It's a tough one to write since `by exact` is not quite a no-op (it delays elaboration)

File: Mathlib/Tactic/Linter/UnusedTactic.lean [hunk 6]
```diff
@@ -0,0 +1,213 @@
...
+                (getNames i.mctxBefore != getNames i.mctxAfter)
+        then modify (·.erase r)
+    eraseUsedTacticsList c
+  | .context _ t => eraseUsedTactics t
+  | .hole _ => pure ()
+
+end
+
+/-- Gets the value of the `linter.unusedTactic` option. -/
+def getLinterHash (o : Options) : Bool := Linter.getLinterValue linter.unusedTactic o
```
Comment (YaelDillies) [inline Mathlib/Tactic/Linter/UnusedTactic.lean:184]:
```suggestion
def getLinterHash (o : Options) : Bool := linter.unusedTactic.getLinterValue o
```
no?

**Review by YaelDillies — APPROVED** [review]
Looks pretty straighforward now.

maintainer merge

**Comment by semorrison** [comment]
bors d+

File: Mathlib/Tactic/Linter/UnusedTactic.lean (hunk 6 above)
Comment (adomani) [reply Mathlib/Tactic/Linter/UnusedTactic.lean:184]: Thank you very much for the reviews, Yaël!

I tried this suggestion, but it does not work: the type of `linter.unusedTactic` is `Lean.Option Bool`.  The `Linter` itself is the *following* declaration, `unusedTacticLinter`.

File: Mathlib/AlgebraicGeometry/Restrict.lean (hunk 5 above)
Comment (adomani) [reply Mathlib/AlgebraicGeometry/Restrict.lean]: To first approximation, it could work like the "unused `set_option ... in`" linter: `try` to elaborate the proof with `by exact x` replaced by `x` and if no error is thrown, then suggest the alternative.

With more effort, there could also be a "speed" test, but I have not played around with that enough.

**Comment by adomani** [comment]
Two more unused tactics had snuck in since the last time I merged master!

Thanks for the reviews!

bors r+
